US07638541B2
4-(5-Benzyloxymethyl-[1,2,4]oxadiazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of benzyloxy-acetic acid (5 g, 30 mmol), NEt3 (3.6 g, 36 mmol) in toluene (150 mL) was added isobutylchloroformate (4.1 g, 30 mmol) at 0° C. The mixture was stirred at room temperature for 1.5 hours. 4-(N-hydroxycarbamimidoyl)-piperidine-1-carboxylic acid tert-butyl ester (7.3 g, 30 mmol) was added to the mixture. The mixture was heated under reflux overnight, cooled and the mixture was washed successively with H2O and brine. After drying (Na2SO4), the solvent was removed. The residue was purified by flash chromatography on silica gel to afford the desired product. 1H NMR (CDCl3): δ 7.4˜7.3 (5H, m), 4.7 (2H, s), 4.69 (2H, s), 4.2˜4.04 (2H, m), 3.02˜2.84 (3H, m), 2.04˜1.94 (2H, m), 1.84˜1.7 (2H, m), 1.46 (9H, s).

reactant | benzyloxy-acetic acid | 30 mmol, 5 g | C(C1=CC=CC=C1)OCC(=O)O | C9H10O3
reactant | NEt3 | 36 mmol, 3.6 g | CCN(CC)CC | C6H15N
reactant | isobutylchloroformate | 30 mmol, 4.1 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 4-(N-hydroxycarbamimidoyl)-piperidine-1-carboxylic acid tert-butyl ester | 30 mmol, 7.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NO)=N | C11H21N3O3
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(5-Benzyloxymethyl-[1,2,4]oxadiazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NOC(=N1)COCC1=CC=CC=C1 | C20H27N3O4
